US07452893B2
To a solution of 2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethanol (8.46 g, 24.6 mmol) in dichloromethane (100 mL) at 0° C. was added diisopropylethylamine (17.1 mL, 98.8 mmol) and TBSOTf (13.0 mL, 49.4 mmol). The reaction mixture was stirred for 5 min and then poured into water. The layers were separated and the aqueous extracted with dichloromethane (3×). The combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated. Purification by flash column chromatography (5% ethyl acetate in hexanes) gave (2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethoxy)(tert-butyl)dimethylsilane (11.3 g, 100% yield) as a clear oil.

reactant | 2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethanol | 24.6 mmol, 8.46 g | C(C1=CC=CC=C1)OC1CC(C(CC1)OCC(O)C1=CC=CC=C1)F | C21H25FO3
reactant | diisopropylethylamine | 98.8 mmol, 17.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBSOTf | 49.4 mmol, 13.0 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | water | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethoxy)(tert-butyl)dimethylsilane | 11.3 g, 100% yield | C(C1=CC=CC=C1)OC1CC(C(CC1)OCC(O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)F | C27H39FO3Si
